US08748627B2
tert-butyl 4-(1,3-thiazol-2-yloxy)phenylcarbamate
N-Boc-4-hydroxy-aniline (3.9 g, 0.019 mol) was combined with 2-bromothiazole (2.4 mL, 0.027 mol) in DMSO (20 mL) at room temperature. K2CO3 (3.9 g, 0.028 mol) was added and with rapid stirring, the reaction mixture was heated at about 140° C. for 5 hours. After cooling to room temperature, the reaction mixture was poured into water (300 mL), extracted with ethyl acetate (2×) and the combined organics were dried over MgSO4. Decolorizing charcoal was added, stirred for 30 minutes and filtered through a plug of celite and silica (1:1) to obtain an amber filtrate. The solvent was removed by rotary evaporation and the residue was purified by flash column chromatography (ethyl acetate:hexanes; 5%-50% ethyl acetate gradient) to give the title compound (1.4 g, 4.8 mmol, 25%) MS (ESI APCI) m/z 293.0 (M+H+); 1H NMR (300 MHz, DMSO-d6) δ 9.49 (s, 1H) 7.53 (d, J=9.0 Hz, 2H) 7.21-7.28 (m, 2H) 7.16-7.19 (m, 2H) 1.48 (s, 9H).

reactant | N-Boc-4-hydroxy-aniline | 0.019 mol, 3.9 g | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)O | C11H15NO3
reactant | 2-bromothiazole | 0.027 mol, 2.4 mL | BrC=1SC=CN1 | C3H2BrNS
reactant | K2CO3 | 0.028 mol, 3.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 300 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-(1,3-thiazol-2-yloxy)phenylcarbamate | 4.8 mmol, 1.4 g, 25% | S1C(=NC=C1)OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C14H16N2O3S
